US08455646B2
Preparation of (R)-3-(2-benzylamino-2-phenyl-acetoxy)-1-[2-(3-ethoxycarbonyl-isoxazol-5-yl)-2-oxo-ethyl]-1-azonia-bicyclo[2.2.2]octane bromide (C237)
Benzylamino-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C80) (100 mg, 0.28 mmol) is dissolved in ethyl acetate (1.90 mL) and acetonitrile (0.95 mL) and ethyl 5-(2-bromoacetyl)isoxazole-3-carboxylate (82.0 mg, 0.31 mmol) is added. The orange solution is stirred at RT overnight. The suspension is evaporated and the crude is purified by flash chromatography (DCM/EtOH=93/7) to obtain the title compound as a pale brown solid (61 mg, 35% yield, bromide salt, mixture of diastereoisomers).

reactant | Benzylamino-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 0.28 mmol, 100 mg | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NCC2=CC=CC=C2)=O | C22H26N2O2
reactant | acetonitrile | 0.95 mL | C(C)#N | C2H3N
reactant | ethyl 5-(2-bromoacetyl)isoxazole-3-carboxylate | 0.31 mmol, 82.0 mg | BrCC(=O)C1=CC(=NO1)C(=O)OCC | C8H8BrNO4
solvent | ethyl acetate | 1.90 mL | C(C)(=O)OCC | C4H8O2
product | (R)-3-(2-benzylamino-2-phenyl-acetoxy)-1-[2-(3-ethoxycarbonyl-isoxazol-5-yl)-2-oxo-ethyl]-1-azonia-bicyclo[2.2.2]octane bromide | 61 mg, 35% yield | [Br-].C(C1=CC=CC=C1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(=O)C2=CC(=NO2)C(=O)OCC)C2=CC=CC=C2 | InChI=1S/C30H34N3O6.BrH/c1-2-37-29(35)24-17-26(39-32-24)25(34)19-33-15-13-22(14-16-33)27(20-33)38-30(36)28(23-11-7-4-8-12-23)31-18-21-9-5-3-6-10-21;/h3-12,17,22,27-28,31H,2,13-16,18-20H2,1H3;1H/q+1;/p-1/t22?,27-,28?,33?;/m0./s1
